US03944560
3-Acetoxy-3-(N-acetylisopropylaminomethyl)-7-carbethoxyamino-3,4-dihydro-2H-1,5-benzodioxepin (4.1 g., 10 millimoles) is warmed five hours at 40°C. with 6 ml. of concentrated hydrochloric acid and 34 ml. of ethanol. The solution is cooled, taken to the basic side with sodium hydroxide, diluted with water, and extracted with diethyl ether to give 3-hydroxy-3-isopropylaminomethyl-7-carbethoxyamino-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 3-Acetoxy-3-(N-acetylisopropylaminomethyl)-7-carbethoxyamino-3,4-dihydro-2H-1,5-benzodioxepin | 10 millimoles, 4.1 g | C(C)(=O)OC1(COC2=C(OC1)C=CC(=C2)NC(=O)OCC)CN(C(C)=O)C(C)C | C20H28N2O7
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-hydroxy-3-isopropylaminomethyl-7-carbethoxyamino-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC(=C2)NC(=O)OCC)CNC(C)C | C16H24N2O5
